US06878717B2
4-[[5-bromo-4-(4-cyano-2,6-dimethylphenoxy)-6-chloro-2-pyrimidinyl]amino]-benzonitrile (0.000660 mol), tetrahydrofuran (1 ml), and 1-pyrrolidineethanamine (0.00198 mol) were added to a pressure vessel. The mixture was heated at 75° C. for 16 hours. CH2Cl2 was added, and the mixture was washed with water, dried, filtered and the filtrate was evaporated. Purification using flash column chromatography eluting with 1:9 methanol:methylene chloride produced a solid which was redissolved in CH3CN. HCl/diethylether 1.0M (0.48 ml) was added, and the mixture was cooled in ice. Filtration yielded 0.19 g of 4-[[5-bromo-4-(4-cyano-2,6-dimethylphenoxy)-6-[(1-pyrrolidinyl)ethylamino]-2-pyrimidinyl]amino]benzonitrile hydrochloride (1:1) (50.6%); mp. 208-210° C. (comp. 47).

reactant | 4-[[5-bromo-4-(4-cyano-2,6-dimethylphenoxy)-6-chloro-2-pyrimidinyl]amino]-benzonitrile | 0.000660 mol | BrC=1C(=NC(=NC1Cl)NC1=CC=C(C#N)C=C1)OC1=C(C=C(C=C1C)C#N)C | C20H13BrClN5O
reactant | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
reactant | 1-pyrrolidineethanamine | 0.00198 mol | N1(CCCC1)CCN | C6H14N2
reactant | HCl diethylether | 1.0M, 0.48 ml | Cl.C(C)OCC
solvent | CH3CN | CC#N | C2H3N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[[5-bromo-4-(4-cyano-2,6-dimethylphenoxy)-6-[(1-pyrrolidinyl)ethylamino]-2-pyrimidinyl]amino]benzonitrile hydrochloride | 0.19 g, 50.6% | Cl.BrC=1C(=NC(=NC1NCCN1CCCC1)NC1=CC=C(C#N)C=C1)OC1=C(C=C(C=C1C)C#N)C | InChI=1S/C26H26BrN7O.ClH/c1-17-13-20(16-29)14-18(2)23(17)35-25-22(27)24(30-9-12-34-10-3-4-11-34)32-26(33-25)31-21-7-5-19(15-28)6-8-21;/h5-8,13-14H,3-4,9-12H2,1-2H3,(H2,30,31,32,33);1H
